US05059609
3,4-Dihydro-7-methoxy-2-phenoxy-1(2H)-naphthalenone
A mixture of 2.95 g (31.4 mmol) of phenol, 25.5 g (78.2 mmol) of cesium carbonate and 320 mg (1.23 mmol) of cesium iodide in 64 ml of acetone was heated at reflux for 40 minutes and then cooled to 0° C. To this 0° C. mixture was added 8.00 g (31.4 mmol) of 2-bromo-3,4-dihydro-7-methoxy-1(2H)-naphthalenone. The resultant reaction mixture was stirred 3 hours at 0° C. and 15 hours at 25° C., then filtrated. The filtrate was evaporated to an oil which was purified via column chromatography on 400 g of silica gel, eluting with 25% ether-hexane, to give 5.14 g (61%) of present title product as an oil, crystallized from ether-hexane, m.p. 94.5°-96.5° C.

reactant | phenol | 31.4 mmol, 2.95 g | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 78.2 mmol, 25.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-3,4-dihydro-7-methoxy-1(2H)-naphthalenone | 31.4 mmol, 8.00 g | BrC1C(C2=CC(=CC=C2CC1)OC)=O | C11H11BrO2
solvent | acetone | 64 ml | CC(=O)C | C3H6O
catalyst | cesium iodide | 1.23 mmol, 320 mg | [I-].[Cs+]
product | 3,4-Dihydro-7-methoxy-2-phenoxy-1(2H)-naphthalenone | 5.14 g, 61% | COC1=CC=C2CCC(C(C2=C1)=O)OC1=CC=CC=C1 | C17H16O3
